US05998412
To a suspension of methyl 1-aminocyclohexane-1-carboxylate HCl salt (4.06 g, 20.9 mmol) in acetonitrile (37 ml) was added sulfuryl chloride (26.2 ml, 326 mmol) and antimony pentachloride (0.17 ml, 2.4 mmol). The reaction was heated at 80° C. using a calcium sulfate drying tube overnight. The reaction was concentrated in vacuo to give methyl 1-(chlorosulfonylamino)cyclohexane-1-carboxylate (85%) as a yellow oil that was used without further purification. This material was converted to N-hydroxy-1-{[4-(4-chlorophenyl)piperazine-1-sulfonyl]amino}cyclohexane-1-carboxamide by following Examples 2 and Example 13 except that the reaction was heated at 45° C.

reactant | methyl 1-aminocyclohexane-1-carboxylate HCl salt | 20.9 mmol, 4.06 g | Cl.NC1(CCCCC1)C(=O)OC
reactant | sulfuryl chloride | 326 mmol, 26.2 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | antimony pentachloride | 2.4 mmol, 0.17 ml | [Sb](Cl)(Cl)(Cl)(Cl)Cl
solvent | acetonitrile | 37 ml | C(C)#N | C2H3N
product | methyl 1-(chlorosulfonylamino)cyclohexane-1-carboxylate | 85% | ClS(=O)(=O)NC1(CCCCC1)C(=O)OC | C8H14ClNO4S
